US08426433B2
7. 4-amino-1-(2-(1-methyl-5-(N-methyl-N-phenylsulfamoyl)-1H-benzo[d]imidazol-2-yl)ethyl)pyridinium chloride
To a suspension of 4-amino-1-(3-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenylamino)-3-oxopropyl)pyridinium chloride (0.2 g, 0.00042 mol) in acetonitrile (8 ml), thionyl chloride (0.2 ml) was added. After boiling the reaction mixture for 10 min, it was left to stand at room temperature for 24 h and then diluted with diethyl ether (8 ml). The precipitate formed was collected by filtration and crystallized from a 10:1 mixture of acetonitrile with dehydrated ethanol. The yield of 4-amino-1-(2-(1-methyl-5-(N-methyl-N-phenylsulfamoyl)-1H-benzo[d]imidazol-2-yl)ethyl)pyridinium chloride was 0.055 g (26%).

reactant | 4-amino-1-(3-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenylamino)-3-oxopropyl)pyridinium chloride | 0.00042 mol, 0.2 g | [Cl-].NC1=CC=[N+](C=C1)CCC(=O)NC1=C(C=CC(=C1)S(N(C1=CC=CC=C1)C)(=O)=O)NC
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
product | 4-amino-1-(2-(1-methyl-5-(N-methyl-N-phenylsulfamoyl)-1H-benzo[d]imidazol-2-yl)ethyl)pyridinium chloride | [Cl-].NC1=CC=[N+](C=C1)CCC1=NC2=C(N1C)C=CC(=C2)S(N(C2=CC=CC=C2)C)(=O)=O | InChI=1S/C22H23N5O2S.ClH/c1-25-21-9-8-19(30(28,29)26(2)18-6-4-3-5-7-18)16-20(21)24-22(25)12-15-27-13-10-17(23)11-14-27;/h3-11,13-14,16,23H,12,15H2,1-2H3;1H
